US07056937B2
[Exemplified by Preparation of 2-(3-oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)-N-phenethyl-acetamide]
To the solution of (3-oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)-acetic acid (510 mg, 2.48 mmol) in THF (18 mL) was added triethylamine (0.38 ml, 2.74 mmol) and ethyl chloroformate (0.24 ml, 2.74 mmol). The mixture was stirred at rt for 1.5 hours and then phenethylamine (0.34 ml, 2.74 mmol) was added. The resulting mixture was again stirred at rt for 4.5 hours. The precipitate was filtered off and washed with small amount of THF a few times. The solvent was removed under the reduced pressure to give the title compound as a yellow solid: 1H NMR (DMSO-d6) δ=10.24 (bs, 1H), 8.03 (t, 1H, J=5.4 Hz), 7.30–7.15 (m, 5H), 6.75–6.70 (m, 3H), 6.61–6.56 (m, 1H), 5.79 (bs, 1H), 4.08–4.04 (m, 1H), 3.30–3.24 (m, 2H), 2.71 (t, 2H, J=7.8 Hz), 2.60 (dd, 1H, J=3.9, 15.3 Hz), 2.31 (dd, 1H, J=8.7, 15.3 Hz).

reactant | (3-oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)-acetic acid | 2.48 mmol, 510 mg | O=C1C(NC2=CC=CC=C2N1)CC(=O)O | C10H10N2O3
reactant | triethylamine | 2.74 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.74 mmol, 0.24 ml | ClC(=O)OCC | C3H5ClO2
reactant | phenethylamine | 2.74 mmol, 0.34 ml | C(CC1=CC=CC=C1)N | C8H11N
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | 2-(3-oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)-N-phenethyl-acetamide | O=C1C(NC2=CC=CC=C2N1)CC(=O)NCCC1=CC=CC=C1 | C18H19N3O2
